US05175157
2-[(N-(3-(Pyrid-4-yl)-propyl)-pyrrolidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-monohydrate
Prepared from 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 3-chloromethyl-N-[3-(pyrid-4-yl)-propyl]-pyrrolidine analogously to Example 2.

reactant | 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline | CC=1C=C2CCNC(C2=CC1C)=O | C11H13NO
reactant | 3-chloromethyl-N-[3-(pyrid-4-yl)-propyl]-pyrrolidine | ClCC1CN(CC1)CCCC1=CC=NC=C1 | C13H19ClN2
product | 2-[(N-(3-(Pyrid-4-yl)-propyl)-pyrrolidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-monohydrate | O.Cl.Cl.N1=CC=C(C=C1)CCCN1CC(CC1)CN1C(C2=CC(=C(C=C2CC1)C)C)=O | InChI=1S/C24H31N3O.2ClH.H2O/c1-18-14-22-8-13-27(24(28)23(22)15-19(18)2)17-21-7-12-26(16-21)11-3-4-20-5-9-25-10-6-20;;;/h5-6,9-10,14-15,21H,3-4,7-8,11-13,16-17H2,1-2H3;2*1H;1H2
